US07115705B2
A solution of 4-vinylbenzoyl chloride (21.0 g, 126 mmol) in dry THF (50 mL) was added to a solution of 4-hydroxymethyl-1,3-oxazolidine-2-thione (14.0 g, 105 mmol) in dry THF (250 mL) and pyridine (10.2 mL, 126 mmol) at 0° C. After 12 hours of stirring at room temperature, pyridine hydrochloride was filtered off, and the solvent was evaporated out in vacuo. The residue was purified by silica gel column chromatography eluted with ethyl acetate/acetone (1/1=v/v), followed by recrystallization from a mixed solvent [n-hexane/ethyl acetate (3/1=v/v)] to afford 4-vinylbenzoic acid 2-thioxo-oxazolidin-4-ylmethyl ester as a colorless solid. Yield 73% (24.1 g, 91.5 mmol). 1H NMR (DMSO-d6): δ=4.25–4.77 (5H, >CH—, —CH2—O(CO)—, and —(SC)O—CH2—), 5.45 (d, J=10.8 Hz, 1H, —CH═CH2), 6.03 (d, J=17.8 Hz, 1H, —CH═CH2), 6.84 (dd, J=11.3 and 17.7 Hz, 1H, —CH═CH2), 7.64 (d, J=8.1 Hz, 2H, —C6H4—), 8.01 (d. J=8.1 Hz, 2H, —C6H4—), 10.3 (broad s, 1H, —NH—) ppm. 13C NMR (DMSO-d6): δ=55.0 (CO—CH2—CH<), 65.1 (>CH—), 71.8 (—CH2—O(CO)—), 117.7 (—CH═CH2), 126.5, 128.6, 130.1 (—C6H4—), 136.0 (—CH═CH2), 142.2 (—C6H4—), 165.6 (—O(CO)—C6H4—), 189.3 (>C═S) ppm. IR (KBr): 3185, 1712 (—OCOPh), 1504 (C═S), 1280, 1180, 1110, 971 cm−1.

reactant | 4-vinylbenzoyl chloride | 126 mmol, 21.0 g | C(=C)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO
reactant | 4-hydroxymethyl-1,3-oxazolidine-2-thione | 105 mmol, 14.0 g | OCC1NC(OC1)=S | C4H7NO2S
reactant | pyridine | 126 mmol, 10.2 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 4-vinylbenzoic acid 2-thioxo-oxazolidin-4-ylmethyl ester | Yield 73% | S=C1OCC(N1)COC(C1=CC=C(C=C1)C=C)=O | C13H13NO3S
